US04634710
215 ml of acetic anhydride were added dropwise at room temperature to a solution of 81.5 g of 4-methoxy-2,3,5-trimethylpyridine 1-oxide in 290 ml of chloroform. After boiling under reflux for 4 hours the solution was evaporated, the residue was dissolved in 200 ml of toluene and again evaporated. The residue was taken up in 500 ml of ethyl acetate and extracted three times with 250 ml of saturated sodium bicarbonate solution. The organic phase was dried over sodium sulfate and evaporated in vacuo. The product which remains behind as the residue was chromatographed on 400 g of silica gel with ether. There was obtained (4-methoxy-3,5-dimethyl-2-pyridyl)methyl acetate in the form of an oil.

reactant | acetic anhydride | 215 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-methoxy-2,3,5-trimethylpyridine 1-oxide | 81.5 g | COC1=C(C(=[N+](C=C1C)[O-])C)C | C9H13NO2
solvent | chloroform | 290 ml | C(Cl)(Cl)Cl | CHCl3
product | (4-methoxy-3,5-dimethyl-2-pyridyl)methyl acetate | C(C)(=O)OCC1=NC=C(C(=C1C)OC)C | C11H15NO3
